US05478845
2-phenylacrylic acid (1.8 g, 12 mmol) and 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (2.4 g, 11 mmol) in 100 ml dry isopropanol was refluxed for 3 h. The mixture was concentrated in vacuo and taken up in water whereupon NaHCO3 was added until pH 8-9. The formed crystals were isolated, washed with ethyl acetate and dried to give 2.0 g 3-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidino-2-phenylpropanoic acid. M.p. 194°-200° C.

reactant | 2-phenylacrylic acid | 12 mmol, 1.8 g | C1(=CC=CC=C1)C(C(=O)O)=C | C9H8O2
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 11 mmol, 2.4 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidino-2-phenylpropanoic acid | FC1=CC2=C(C(=NO2)C2CCN(CC2)C(C(=O)O)(C)C2=CC=CC=C2)C=C1 | C21H21FN2O3
